US04878939
1.5 g (0.04 mole) of sodium boranate are added in portions to a solution of 8 g (0.02 mole) of 4,4-dichloro-1-(2,4-dichlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one in 80 ml of methanol at 20°-30° C., while stirring. After two hours, the mixture is brought to pH 6 by addition of acetic acid. The solution is evaporated under reduced pressure, the residue is taken up in 200 ml of methylene chloride and the mixture is washed three times with 400 ml of water each time and dried over sodium sulphate. After evaporating the solution and removing the residual solvent by warming the residue at 50° C. under 0.01 bar for two hours, 6 g (75% of theory) of 4,4-dichloro-1-(2,4-dichlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-ol are obtained as a 3:1 mixture of the two diastereomers in the form of a highly viscous oil.

reactant | sodium boranate | 0.04 mole, 1.5 g | B(=O)[O-].[Na+]
reactant | 4,4-dichloro-1-(2,4-dichlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one | 0.02 mole, 8 g | ClC(C(C(C(N1N=CN=C1)OC1=C(C=C(C=C1)Cl)Cl)=O)(C)C)Cl | C14H13Cl4N3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 80 ml | CO | CH4O
product | 4,4-dichloro-1-(2,4-dichlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-ol | 6 g, 75% | ClC(C(C(C(N1N=CN=C1)OC1=C(C=C(C=C1)Cl)Cl)O)(C)C)Cl | C14H15Cl4N3O2
